US07420001B2
To 3-methyl-4-morpholin-4-yl-benzofuran-2-carboxylic acid (97 mg, 0.37 mmol) was added (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester (268 mg, 0.74 mmol), BOP (327 mg, 0.74 mmol), N,N-diisopropylethylamine (0.13 mL, 0.74 mmol) and 4 mL of DMF. The mixture was stirred at room temperature overnight. The reaction mixture was poured into brine, and extracted with ethyl acetate. The combined organic solution was washed with brine and water. Removal of the solvent in vacuo gave the crude product, which was purified by column chromatography on silica gel to give 184 mg of (S)-3-methyl-2-{4′-[(3-methyl-4-morpholin-4-yl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid methyl ester, obtained as an off-white solid.

reactant | 3-methyl-4-morpholin-4-yl-benzofuran-2-carboxylic acid | 0.37 mmol, 97 mg | CC1=C(OC2=C1C(=CC=C2)N2CCOCC2)C(=O)O | C14H15NO4
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester | 0.74 mmol, 268 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C18H22N2O4S
reactant | BOP | 0.74 mmol, 327 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.74 mmol, 0.13 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | brine | [Cl-].[Na+].O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)-3-methyl-2-{4′-[(3-methyl-4-morpholin-4-yl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid methyl ester | 184 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=CC=C2)N2CCOCC2)=O | C32H35N3O7S
